US07932247B2
Preparation of N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N-hexyl-3-(4-piperidinylmethyl)benzamide
Following the general procedure outlined in Example 66, 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (75.4 mg, 0.105 mmol), NaH (5.37 mg, 0.243 mmol) and 1-bromohexane (0.020 mL, 0.142 mmol) in DMF (0.5 mL) were reacted to give the desired product (16.4 mg, 24.0%). EI-MS m/z 599(M−H)+.

reactant | 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.105 mmol, 75.4 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C42H55FN4O5
reactant | NaH | 0.243 mmol, 5.37 mg | [H-].[Na+]
reactant | 1-bromohexane | 0.142 mmol, 0.020 mL | BrCCCCCC | C6H13Br
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N-hexyl-3-(4-piperidinylmethyl)benzamide | 16.4 mg, 24.0% | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CN(C(C1=CC(=CC=C1)CC1CCNCC1)=O)CCCCCC | C38H51FN4O
